Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Difficulty in her speech and transient confusion
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ left-handed woman with hx of HTN,
DM, psoriatic arthritis, and sudden R hearing loss of unclear
etiology last fall who presents with transient confusion this
afternoon in the setting of a mild headache and nausea. She
reports that she woke up this morning with a mild bifrontal
headache, which is unusual for her. She also felt nauseated and
vomited once. She went back to bed and slept until ___. She
woke up and was going to call her friend but found that she 
could
not remember her number (although she calls her very 
frequently).
She got her cell phone and realized that she could look her up 
in
the contacts but still couldn't figure out how to select her 
name
from the contacts or dial the number. She finally managed to 
call
another one of her friends using her phone and tried to explain
what was going on. She denies any difficulty speaking, finding
words, or with comprehension, but her friend says she sounded
confused and "didn't make sense." She still had a mild headache
at the time but denies any changes in vision, dizziness,
weakness, numbness/tingling, difficulty walking. She called ___,
and by the time she arrived at the ED she was able to remember
the phone numbers she had been trying to think of and felt back
to baseline. She did have transient difficulty remembering the
name of one of her medications (glyburide). She estimates the
entire episode lasted about 45 minutes.

Currently she feels entirely back to normal except for a
continued slight headache. Her nausea has resolved. She denies
any changes in vision, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations. +Nausea/vomiting as above, denies diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
Type 2 diabetes  
Hypertension
CAD: cardiac catheterization on ___ showed three vessel 
disease involving her LAD, right coronary, and circumflex  
coronary artery. The patient received percutaneous transluminal 
coronary angioplasties to the LAD and right coronary artery as 
well as one stent to the mid LAD lesion of 90% and two stents to 
the proximal right coronary artery with no complications. During 
this cardiac catheterization, through left ventriculography, the 
patient's ejection fraction was noted to be 25% with evidence of 
anterolateral akinesis and otherwise hypokinetic globally. A 
repeat cath in ___ showed no significant stenoses.  
Hyperlipidemia  
Rheumatoid Arthritis  
Asthma  
Paget disease of the nipple in ___, s/p resection of nipple-  

areolar complex and radiation treatments  
Cholecystectomy  
Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted  
at the age of ___ and died at the age of ___.  

 
Physical Exam:
Vitals: 98.9 90 155/66 20 99%  
General: Awake, pleasant and cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Knows the president and 
vice
president. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Slight L pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  5-   ___   ___-   ___-  5     5     5   5
R  5    ___   ___    ___   5     5     5   5

-Sensory: Decreased pinprick sensation in a stocking 
distribution
in b/l ___ from knees down. Vibration and proprioception are
decreased at b/l great toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Mildly wide-based but steady, normal
stride and arm swing. Romberg positive.
On the day of discharge her exam was intact
 
Pertinent Results:
___ 04:35AM BLOOD WBC-6.1 RBC-3.61* Hgb-11.2* Hct-34.4* 
MCV-95 MCH-31.0 MCHC-32.5 RDW-13.8 Plt ___
___ 07:05PM BLOOD WBC-8.3 RBC-3.94* Hgb-12.3 Hct-37.5 
MCV-95 MCH-31.2 MCHC-32.7 RDW-13.5 Plt ___
___ 07:05PM BLOOD Neuts-81.7* Lymphs-12.8* Monos-4.1 
Eos-0.3 Baso-1.1
___ 04:35AM BLOOD Plt ___
___ 07:05PM BLOOD Plt ___
___ 07:05PM BLOOD ___ PTT-25.4 ___
___ 04:35AM BLOOD Glucose-262* UreaN-23* Creat-1.1 Na-138 
K-4.4 Cl-98 HCO3-28 AnGap-16
___ 07:05PM BLOOD Glucose-353* UreaN-22* Creat-1.2* Na-137 
K-4.3 Cl-99 HCO3-26 AnGap-16
___ 07:05PM BLOOD ALT-27 AST-21 AlkPhos-87 TotBili-0.4
___ 07:05PM BLOOD Albumin-4.3 Calcium-9.3 Phos-4.0 Mg-1.7
___ 04:35AM BLOOD %HbA1c-12.2* eAG-303*
___ 04:35AM BLOOD Triglyc-207* HDL-55 CHOL/HD-4.3 
LDLcalc-139*
___ 07:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
HEAD MRI:  There is no acute infarction, edema, mass effect, or 
evidence of
blood products in the brain parenchyma.  There are multiple 
small foci of high T2 signal in the subcortical, deep, and 
periventricular white matter of the cerebral hemispheres, 
nonspecific but likely sequela of chronic small vesselischemic 
disease in a patient of this age.  There is mild prominence of 
theventricles and sulci due to cerebral atrophy.  The major 
arterial flow voidsare grossly preserved.
 There is a small mucus retention cyst in the right maxillary 
sinus.  There ismild mucosal thickening in left lateral mastoid 
air cells.
 
HEAD MRA:  The intracranial internal carotid arteries are patent 
without
evidence of significant stenoses.  Bilateral M1 segments of 
middle cerebral
arteries are patent without evidence of stenoses.  The proximal 
inferior
division of the right middle cerebral artery appears smaller 
than the left. 
There are artifacts through this area on the source data 
bilaterally, yet this finding is asymmetric.  The A1 segment of 
the right anterior cerebral artery is hypoplastic, a normal 
variant.  Otherwise, bilateral anterior cerebral arteries appear 
patent without evidence of stenoses.  In the posterior 
circulation, the left posterior inferior cerebellar artery is 
not visualized.
No definited ___ complex is seen.  Bilateral vertebral 
arteries, basilarartery, right posterior inferior cerebellar 
artery, bilateral anteriorinferior cerebellar arteries, 
bilateral superior cerebellar arteries, andbilateral posterior 
cerebral arteries appear patent without evidence ofstenoses.  
The left posterior cerebral artery receives a large contribution 
from the left posterior communicating artery, but the left P1 
segment ispatent.  There is no evidence for an intracranial 
aneurysm.
 
NECK MRA:  The origins of the common carotid and vertebral 
arteries are not
adequately assessed.  Otherwise, the common carotid arteries are 
patent
without evidence of stenoses.  There is signal loss at the 
origin of the right internal carotid artery with an apparent 50% 
stenosis.  However, evaluation of the proximal internal carotid 
arteries is prone to artifacts when using the 2D time-of-flight 
technique.  The left internal carotid artery appears patent 
without evidence of hemodynamically significant stenoses.  The 
cervical courses of the bilateral vertebral arteries are patent 
without evidence of hemodynamically significant stenoses.
 
IMPRESSION:
1.  No acute infarction.
 
2.  Supratentorial white matter signal abnormalities are likely 
sequela of
chronic small vessel ischemic disease in a patient of this age.
 
3.  2D time-of-flight neck MRA demonstrates an apparent 50% 
stenosis at the
origin of the right internal carotid artery.  Since 2D 
time-of-flight
technique is prone to artifacts at the origins of the internal 
carotid
arteries, correlation with carotid sonography could be helpful 
to better
define the extent of stenosis.
 
4.  Apparent diminished caliber of the inferior division of the 
right middle cerebral artery compared to the left, which may be 
related to atherosclerosis.
 
5.  Nonvisualization of the left posterior inferior cerebral 
artery, which may be related to anatomic variation or occlusion.

EEG:This is an abnormal awake and sleep EEG because of nearly
continuous focal slowing in the left hemisphere, maximal in the 
left temporal region, and poorly sustained alpha rhythm on the 
left. These findings are indicative of moderate focal cerebral 
dysfunction in the left temporal region,possibly structural in 
origin. Mild independent focal slowing in the right temporal 
region is indicative of subcortical dysfunction of non-specific 
etiology. No epileptiform discharges or electrographic seizures 
were noted.
 
 
Brief Hospital Course:
This is a ___ woman with a history of hypertension and
diabetes who was admitted to the Stroke Service with an episode 
of confusion and right hand numbness. 
She woke up yesterday morning with numbness of her right
hand (both palmar and dorsal surfaces).  This cleared up within 
a
couple of minutes.  However, she also had a dull headache at 
that
time, which lingered on for the entire day.  This was associated
with some nausea.  Later in the afternoon, the headache worsened
and she had considerable difficulty dialing in her friend.  She
looked at the number buttons, but simply could not
figure out how to dial in the number.  Eventually, she managed 
to
call another friend, who told her that she sounded confused. 
This lasted for about 20 minutes or so during which she had
another episode of right hand numbness.  Her exam had cleared up
by the time she was seen in the hospital.

Detailed stroke work-up including a brain MRI was performed for 
her, which did not show any infarct or significant vascular 
stenosis.  The MRA of the neck was normal. 
Performed EEG did not show any interictal discharge.
As the symptom subsided she was discharged home.

 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
FOLIC ACID - folic acid 1 mg tablet. 2 Tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
GLYBURIDE - glyburide 5 mg tablet. 1 tablet(s) by mouth twice a
day -  (Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 100 mcg tablet. 1 Tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
METFORMIN - metformin 1,000 mg tablet. 1 tablet(s) by mouth 
twice
a day -  (Prescribed by Other Provider)
METHOTREXATE SODIUM [METHOTREXATE (ANTI-RHEUMATIC)] -
Methotrexate (Anti-Rheumatic) 2.5 mg tablets in a dose pack. 4
tablets(s) by mouth weekly
METOPROLOL SUCCINATE [TOPROL XL] - Toprol XL 50 mg
tablet,extended release. 1 Tablet(s) by mouth once a day - 
(Prescribed by Other Provider)
QUINAPRIL - quinapril 40 mg tablet. 1 Tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
SIMVASTATIN - simvastatin 10 mg tablet. 1 tablet(s) by mouth 
once
a day -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN [ADULT LOW DOSE ASPIRIN] - Adult Low Dose Aspirin 81 mg
tablet,delayed release. 1 Tablet(s) by mouth once a day -  (OTC)
CALCIUM CARBONATE [CALCIUM 600] - Dosage uncertain -  
(Prescribed
by Other Provider)
MULTIVITAMIN - Dosage uncertain -  (Prescribed by Other 
Provider)
 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Methotrexate 2.5 mg PO 4X/WEEK (___) 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Simvastatin 10 mg PO DAILY 
7. GlyBURIDE 5 mg PO BID 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Quinapril 40 mg PO DAILY 
10. Calcium Carbonate 0 mg PO PER HOME REGIMEN 
11. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Difficulty in speech and right hand numbness 
2. Possible TIA versus complex migraine
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ came to the ED with symptoms of difficulty with number and 
right hand numbness.  This occurred in the context of headache, 
so our differential diagnosis included stroke, seizure and 
migraine.  MRI was normal and EEG was obtained.  The latter 
result was also normal.  Given these findings and your symptoms, 
we feel that migraine with neurological symptoms ('complex 
migraine') was the most likely cause.  

We have increased your aspirin to 325 mg daily.  Please take the 
'enteric coated' form so that this is gentle on your stomach.

Please continue to weigh yourself every morning, call MD if 
weight goes up more than 3 lbs.
 
Followup Instructions:
___